Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cc: urinary retention, BRBPR
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI(4): Ms. ___ is a ___ female with hx of EtOH 
abuse, diverticulosis, gastritis, depression/anxiety, 
hypothyroidism who presented to ___ with BRBPR, back pain, 
and urinary retention, found on MRI to have questionable L5-S1 
disc herniation, transferred to ___ given concern for cord 
compression. 

Ms. ___ poor historian, was recently seen at ___ 
___ for alcohol detox and was sent to an inpatient 
treatment facility ___. There she had a recurrence of her known 
rectal prolapse, with significant diarrhea and BRBPR. 
Concurrently, on ~ ___, she developed new midline lower back 
pain with radiation down the left leg, with inability to urinate 
but without lower extremity weakness. She left the program and 
returned home, where she relapsed on ETOH (per patient, last 
drink ___. On ___ she presented to the ___ for 
BRBPR, persistent inability to urinate, and her lower back pain. 
There she was guaiac positive with a rectal exam reportedly 
concerning for decreased tone. Per patient, her rectal prolapse 
was reduced. A Foley was placed (unclear how much output after 
placement). She was admitted, received a protonix infusion and 
CIWA monitoring. Lumbar MRI was done, which preliminarily was 
read as concerning for L5-S1 nerve root displacement with 
?paraspinal inflammation (although the final read is only mild 
degenerative change of the lumbar spine). Given the MRI 
findings, urinary retention, and reported decreased rectal tone, 
she was transferred to ___ for c/f cord compression.

On arrival to our ED, the patient reported that her pain had 
resolved. VS WNL. MRIs of the cervical and thoracic spine were 
obtained, showing  no e/o cord compression but moderate 
degenerative changes and multilevel spinal canal and neural 
foraminal narrowing (imaging of cervical spine appears to have 
been incomplete). She was seen by ortho spine, who ultimately 
concluded that no operative intervention is necessary. Urology 
was consulted and recommended a voiding trial and outpatient 
f/u. The patient received ativan 1mg x 3 (in part to tolerate 
MRI), NS 1L. Her Foley became dislodged in the ED and was 
removed.

Of note, the patient is followed by ___ gastroenterology for 
gastritis, last seen ___. There are no endoscopies in our 
system, but per their note she had an endoscopy and colonoscopy 
at an OSH in ___ that showed erythema in the lower part of the 
colon, diverticulosis, mild gastritis, and an irregular GE 
junction. She has been through detox multiple times, and until 
about 7 months ago was receiving vivitrol for alcohol abuse 
through her PCP.

On arrival to the floor, the patient voided ~1L spontaneously. 
She denies back pain, lower extremity weakness/paresthesias, 
F/C, dysuria/hematuria, ongoing hematochezia, tremors.

ROS: 
As per HPI. In addition, denies CP, SOB, abdominal pain, N/V, 
skin changes, headaches.

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
Gastritis
Hypothyroidism
Diverticulosis
ETOH abuse (prior DTs but no seizures)
Depression/anxiety
Rectal prolapse
 
Social History:
___
Family History:
FAMILY HISTORY: 
Fam hx of GIST (mother and sister).  Multiple family members 
with alcoholism.
 
Physical Exam:
EXAM(8)
VITALS: 97.5, BP 99/60, HR 85, RR 18, 100% RA
GENERAL: NAD, anxious
EYES: Anicteric, pupils equally round
ENT: OP clear
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: CTAB
GI: + BS, soft, NT, ND, no HSM, rectal exam deferred, but no 
obvious prolapse or external hemorrhoids
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
NEURO: AOx3, CN II-XII intact, ___ strength all extremities, 
sensation grossly intact, no tremor, mild tongue fasciculations
PSYCH: pleasant, appropriate affect

Exam on discharge:
T: 98.0 BP:102 / 71 HR:___
GENERAL: Sitting in bed in NAD
EYES: Anicteric, pupils equally round
ENT: OP clear, no exudate or erythema
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Clear B/L on auscultation 
GI: + BS, soft, NT, ND, no HSM
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
NEURO: AOx3, CN II-XII intact, ___ strength all extremities, 
sensation grossly intact, no tremor.
PSYCH: pleasant, appropriate affect, anxious

 
Pertinent Results:
DATA: I have reviewed the relevant labs, radiology studies, 
tracings, medical records, and they are notable for: 

WBC 4.7, Hct 34.4, Plt 149
Na 144, K 3.9, Cl 107, HCO3 22, BUN 9, Cr 0.5, Glu 93, AG 15

UA: small blood, trace protein, 10 ketones, 2 urobiln, neg nit, 
mod ___, 2 RBCs, 10 WBCs, few bacteria

UCx: pending

___:
Hct 39.4 on ___
INR 0.95 on ___
BMP WNL on ___, Cr 0.6
LFTs WNL on ___ (Tbili 1.1), albumin 3.4
Lactic acid 1.2 on ___
Lipase 21 on ___
UA neg nit, neg ___, neg blood, 2+ urobilinogen on ___

MRI cervical (___):
Incomplete examination with only sagittal images of the cervical 
spine obtained.  Mild-to-moderate degenerative changes and mild 
spinal stenosis seen in the cervical region without cord 
compression or intrinsic spinal cord signal abnormalities.  
Foramina are not evaluated in absence of axial images. If 
clinically indicated a repeat examination can be obtained. 

Plain film L spine (___):
No evidence of fracture or subluxation detected on the flexion 
and extension views. 

MRI lumbar ___, ___: 
There is mild degenerative change of the lower lumbar spine 
without evidence of severe narrowing of the thecal sac or the 
neural foramina.

Labs at ___:

___ 03:55AM BLOOD WBC-4.7 RBC-3.26*# Hgb-10.9*# Hct-34.4# 
MCV-106* MCH-33.4* MCHC-31.7* RDW-14.1 RDWSD-54.9* Plt ___
___ 06:35AM BLOOD WBC-4.6 RBC-3.16* Hgb-10.8* Hct-33.3* 
MCV-105* MCH-34.2* MCHC-32.4 RDW-14.0 RDWSD-54.5* Plt ___
___ 06:35AM BLOOD Glucose-102* UreaN-6 Creat-0.5 Na-144 
K-3.9 Cl-105 HCO3-27 AnGap-12
___ 06:25AM BLOOD ALT-19 AST-21 LD(LDH)-234 AlkPhos-67 
TotBili-0.6 DirBili-<0.2 IndBili-0.6
___ 06:35AM BLOOD Calcium-8.7 Phos-4.7* Mg-2.1
___ 06:25AM BLOOD TSH-2.4
 
Brief Hospital Course:
Ms. ___ is a ___ female with hx of EtOH abuse, 
diverticulosis who presented to ___ with BRBPR, back pain, 
and urinary retention, found on MRI to have questionable L5-S1 
disc herniation, transferred to ___ for concern for cord 
compression. None evident of further review of imaging. Now with 
urinary retention but resolution of back pain.

# Urinary retention:
# Back pain:
Unclear etiology for back pain and recurrent urinary retention. 
Per urology, it is possible that an L5-S1 disc herniation with 
nerve root compression could cause urinary retention, but 
outpatient urodynamic testing would be required to confirm. No 
evidence for cord compression. It is possible that her rectal 
prolapse resulted in transient urinary obstruction as well. Low 
suspicion for nephrolithiasis or UTI. Both her back pain and 
urinary retention have now resolved. The patient was set up for 
outpatient urology follow up for ongoing evaluation. The patient 
can follow up in spine clinic if her back pain recurs.  The 
patent was seen by ___ prior to discharge who recommended home 
physical therapy which the patient declined.

# Bright red blood per rectum: Likely secondary to rectal 
prolapse (now reduced) vs diverticulosis (given prior 
colonoscopy ___ with this finding). Less likely gastritis, 
malignancy, AVM.  The patient's hematocrit was stable during her 
hospitalization. She has outpatient colorectal surgery follow up 
if prolapse recurs.

# ETOH abuse: Hx of DTs w/o seizures.
#Anxiety
The patient was monitored on CIWA. She scored on the day of 
admission but no longer exhibited signs of withdrawal. She was 
seen by social work and after extensive discussion with the 
patient and her sister she was set up with an appointment at her 
PCP's office ___ clinic which helps patient with alcohol 
treatment. She also has intake scheduled at an intensive 
outpatient treatment program.  The patient requested medication 
to manage her anxiety until she is able to see her PCP or attend 
IOP. The patient was counseled on alternative. 

# Hypothyroidism:
TSH checked and normal. Should continue her current dose of 
levothyroxine.

Transitional issues:
- referred to Urology and colorectal surgery for follow up
- please assist patient in treatment for anxiety and alcohol 
abuse
- please check CBC at follow up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 25 mcg PO DAILY 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Naloxone 50 mg PO DAILY 

 
Discharge Medications:
1.  Escitalopram Oxalate 10 mg PO DAILY  
2.  Levothyroxine Sodium 25 mcg PO DAILY  
3.  Naloxone 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary retention- resolved
Back pain- resolved
Alcohol withdrawal
Rectal prolapse
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your recent 
admission to ___. You were admitted with back pain, problems 
urinating and rectal bleeding. Your inability to urinate 
improved while you were hospitalized. You were seen by urology 
who recommended you follow up as an outpatient at the 
appointment below.  You had an MRI in your spine which showed 
some narrowing in your spine but no reason for your symptoms. 
You can follow up as an outpatient. Your rectal bleeding 
improved and your blood counts were stable. The bleeding is 
likely due to rectal prolapse. You should have your blood counts 
checked when you see your PCP. We have arranged outpatient 
follow up with colorectal surgery.

You were also treated for alcohol withdrawal while in the 
hospital. You have an intake appointment with the ___ 
clinic at your PCP's office today to help with treatment for 
alcohol withdrawal. 

We wish you the best,
Your ___ Care team
 
Followup Instructions:
___